US06794389B2
cis-4-Trifluoroacetylaminomethylcyclohexylamine
A solution of 0.53 g of cis-N-(tert-butoxycarbonyl)-4-trifluoroacetylaminomethylcyclohexylamine in methylene chloride was combined with 2 mL of trifluoroacetic acid, and stirred for 2 hours. The reaction solution was basified by addition of a saturated solution of sodium hydrogen carbonate, and then extracted with chloroform. After drying over sodium sulfate, 0.19 g of the desirable compound was obtained as a pale yellow oil.

reactant | cis-N-(tert-butoxycarbonyl)-4-trifluoroacetylaminomethylcyclohexylamine | 0.53 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@@H](CC1)CNC(C(F)(F)F)=O | C14H23F3N2O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | cis-4-Trifluoroacetylaminomethylcyclohexylamine | 0.19 g | FC(C(=O)NC[C@H]1CC[C@H](CC1)N)(F)F | C9H15F3N2O
